US07375087B2
4-[(4-{3-[1-Carbamoyl-1-(methyl)-ethylsulfamoyl]propyl}phenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole
To a suspension of benzyl 2-amino-2-methylpropionate p-toluenesulfonic acid salt (Tetrahedron, 1991, Vol. 47, No. 2, pp. 259-270; 3.9 g) and triethylamine (2.7 g) in dichloromethane (15 mL) was added allylsulfonyl chloride (0.75 g) at room temperature, and the mixture was stirred overnight. The reaction was quenched by addition of water, and the organic layer of the resulting mixture was separated. The organic layer was washed with 1 mol/L hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give N-[1-benzyloxycarbonyl-1-(methyl)-ethyl]allylsulfonamide (0.48 g). To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-bromophenyl)methyl]-5-isopropyl-1H-pyrazole (0.40 g), N-[1-benzyloxycarbonyl-1-(methyl)-ethyl]allylsulfonamide (0.48 g) in acetonitrile (1 mL) were added triethylamine (0.32 g), palladium acetate(II) (14 mg) and tris(2-methylphenyl)phosphine (39 mg), and the mixture was refluxed overnight under shading the light. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1-ethyl acetate) to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{(1E)-3-[1-benzyloxycarbonyl-1-(methyl)-ethylsulfamoyl]prop-1-enyl}phenyl)methyl]-5-isopropyl-1H-pyrazole (0.11 g). This material was dissolved in methanol (1 mL). To the solution was added 10% palladium-carbon powder (50 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{3-[1-carboxy-1-(methyl)-ethylsulfamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole (95 mg). To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{3-[1-carboxy-1-(methyl)-ethylsulfamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole (50 mg) in N,N-dimethylformamide (0.5 mL) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (19 mg) and 1-hydroxybenzotriazole (13 mg). An ammonia gas was bubbled into the mixture for about 2 minutes, and the resulting mixture was stirred at room temperature overnight. The insoluble material was removed by filtration. To the filtrate was added 5 mol/L aqueous sodium hydroxide solution (0.25 mL), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added acetic acid (0.09 mL), and the mixture was diluted with water (1 mL). The insoluble material was removed by filtration, and the filtrate was purified by preparative reverse phase column chromatography (Shiseido CAPCELL PAK UG120 ODS, 5 μL, 120 Å, 20×50 mm, flow rate 30 mL/minute linear gradient, water/methanol=90/10-10/90) to give the title compound (14 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-{3-[1-carboxy-1-(methyl)-ethylsulfamoyl]propyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | 50 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)CCCS(NC(C)(C)C(=O)O)(=O)=O)C(C)C | C34H47N3O14S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 19 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 13 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 4-[(4-{3-[1-Carbamoyl-1-(methyl)-ethylsulfamoyl]propyl}phenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole | 14 mg | C(N)(=O)C(C)(C)NS(=O)(=O)CCCC1=CC=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C26H40N4O9S
